.subckt ib_div2 CK CKB IBIAS VDD VSS OI OIB OQ OQB I_P
XMA1 OIB OQ nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA2 OI OQB nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA3 OIB OI nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA4 OI OIB nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA5 nTA CK TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA6 nLA CKB TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB1 OQB OIB nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB2 OQ OI nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB3 OQB OQ nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB4 OQ OQB nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB5 nTB CKB TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB6 nLB CK TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XRA1 VDD OIB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRA2 VDD OI VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB1 VDD OQB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB2 VDD OQ VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XM_BREF IBIAS IBIAS VSS VSS nfet_03v3 L=1u W=4u nf=1 m=1
XM_TAILA TAILA IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_TAILB TAILB IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_NT_IP NS_IP IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_IP DN1_IP OIB NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_IP OC_IP OI NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_IP DN1_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_IP OC_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_IP OC_IP G1_IP cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_IP INVO1_IP G1_IP VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_IP INVO1_IP G1_IP VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_IP INVO1_IP G1_IP VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_IP INVO2_IP INVO1_IP VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_IP INVO2_IP INVO1_IP VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_IP INVO3_IP INVO2_IP VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_IP INVO3_IP INVO2_IP VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_IP INVO3_IP I_P VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
.ends ib_div2
