.subckt ib_div2 CK CKB IBIAS VDD VSS OI OIB OQ OQB I_P I_N Q_N Q_P
XMA1 OIB OQ nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA2 OI OQB nTA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA3 OIB OI nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA4 OI OIB nLA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA5 nTA CK TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA6 nLA CKB TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB1 OQB OIB nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB2 OQ OI nTB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB3 OQB OQ nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB4 OQ OQB nLB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB5 nTB CKB TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMB6 nLB CK TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XRA1 VDD OIB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRA2 VDD OI VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB1 VDD OQB VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XRB2 VDD OQ VSS ppolyf_u_1k r_width=10.0u r_length=3.0u
XM_BREF IBIAS IBIAS VSS VSS nfet_03v3 L=1u W=4u nf=1 m=1
XM_TAILA TAILA IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_TAILB TAILB IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 m=1
XM_NT_IP NS_IP IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_IP DN1_IP OIB NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_IP OC_IP OI NS_IP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_IP DN1_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_IP OC_IP DN1_IP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_IP OC_IP G1_IP cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_IP INVO1_IP G1_IP VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_IP INVO1_IP G1_IP VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_IP INVO1_IP G1_IP VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_IP INVO2_IP INVO1_IP VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_IP INVO2_IP INVO1_IP VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_IP INVO3_IP INVO2_IP VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_IP INVO3_IP INVO2_IP VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_IP INVO3_IP I_P VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_IN NS_IN IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_IN DN1_IN OI NS_IN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_IN OC_IN OIB NS_IN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_IN DN1_IN DN1_IN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_IN OC_IN DN1_IN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_IN OC_IN G1_IN cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_IN INVO1_IN G1_IN VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_IN INVO1_IN G1_IN VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_IN INVO1_IN G1_IN VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_IN INVO2_IN INVO1_IN VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_IN INVO2_IN INVO1_IN VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_IN INVO3_IN INVO2_IN VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_IN INVO3_IN INVO2_IN VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_IN INVO3_IN I_N VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_QN NS_QN IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_QN DN1_QN OQ NS_QN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_QN OC_QN OQB NS_QN VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_QN DN1_QN DN1_QN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_QN OC_QN DN1_QN VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_QN OC_QN G1_QN cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_QN INVO1_QN G1_QN VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_QN INVO1_QN G1_QN VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_QN INVO1_QN G1_QN VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_QN INVO2_QN INVO1_QN VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_QN INVO2_QN INVO1_QN VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_QN INVO3_QN INVO2_QN VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_QN INVO3_QN INVO2_QN VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_QN INVO3_QN Q_N VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
XM_NT_QP NS_QP IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=1 m=1
XM_BN1_QP DN1_QP OQB NS_QP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BN2_QP OC_QP OQ NS_QP VSS nfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP1_QP DN1_QP DN1_QP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XM_BP2_QP OC_QP DN1_QP VDD VDD pfet_03v3 L=0.3u W=8u nf=1 m=1
XCC_QP OC_QP G1_QP cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=10.0u
XRFB_QP INVO1_QP G1_QP VSS ppolyf_u_1k r_width=2.0u r_length=40.04u
XM_IP1_QP INVO1_QP G1_QP VDD VDD pfet_03v3 L=0.3u W=10u nf=1 m=1
XM_IN1_QP INVO1_QP G1_QP VSS VSS nfet_03v3 L=0.3u W=4u nf=1 m=1
XM_IP2_QP INVO2_QP INVO1_QP VDD VDD pfet_03v3 L=0.3u W=26u nf=1 m=1
XM_IN2_QP INVO2_QP INVO1_QP VSS VSS nfet_03v3 L=0.3u W=11u nf=1 m=1
XM_IP3_QP INVO3_QP INVO2_QP VDD VDD pfet_03v3 L=0.3u W=44u nf=1 m=1
XM_IN3_QP INVO3_QP INVO2_QP VSS VSS nfet_03v3 L=0.3u W=16u nf=1 m=1
XR_SER_QP INVO3_QP Q_P VSS ppolyf_u_1k r_width=2.0u r_length=2.0u
.ends ib_div2
